Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
Mr. ___ is a ___ YO gentleman with PMH HIV (last CD4 unk, off 
all ART ___ years), who presents with overall constitutional 
symptoms x ___ months. 

He was previously followed at ___ but was lost 
to follow up for the past ___ years as he was unable to attend his 
doctors ___ to distance and losing his driver's 
license. He states he has been off all medications for the past 
___ years, including his anti-retrovirals. He called trying to 
make a new appointment but was unable to do so and after a year 
of trying he gave up. 

For the past ___ months he has felt that his body is "shutting 
down". His stools are "tar-like" and constipated. He denies any 
diarrhea. He has had white sputum production and a recent sore 
throat. He endorses full body aches, fevers/chills at home, 
unintentional weight loss of 50 lbs. His biggest complaint is 
fatigue. He is taking naps during the day.  He went to bed at 
2pm
and slept until the next day. No fevers. He has persistent night 
sweats. He has not had sob or chest pain. He is not coughing. He 
is not having nausea or vomiting. His appetite is very poor. It 
hurts to swallow and it feels like the food is coming through 
his chest. The pain is so severe it prevents him from eating. He 
usually has diffuse myalgias but none now. No sick contacts or
foreign travel. 

Records from ___ are notable for:
Hep B immunization from ___
Hep A immunization ___
Pneumococcal conjugate vaccine ___, pneumococcal polysaccharide
vaccine ___
Tdap ___

He was admitted to the medical service for further management of 
HIV/AIDS. 
 
Past Medical History:
HIV diagnosed in ___. He has been off ARV for ___ years and was 
on
it for ___ years before that. It was transmitted in heterosexual
relationship. He has never been hospitalized. 
 
Social History:
___
Family History:
Notable for colon cancer in father at age ___
___ in mother
 
Physical ___:
ADMISSION EXAM:
Vitals: 98.3 PO 125 / 78 55 18 99 Ra 
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
+ thrush under the tongue
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
back:  
GU: No foley 
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  
LAD: No cervical LAD
Psychiatric [] WNL
[X] Appropriate [] Flat affect [] Anxious [] Manic [] 
Intoxicated
[X] Pleasant [] Depressed [] Agitated [] Psychotic 

Discharge exam:
97.4 PO 110 / 60 R Lying 60 18 96 Ra 
Gen - no distress, sitting up in bed, well appearing 
HEENT - nc/at, moist oral mucosa, no visible oropharyngeal 
exudate or thrush
Eyes - anicteric, perrl
Neck - supple, no LAD, no JVD
___ - RRR, s1/2, no m/r/g
Pulm - CTA b/l, no w/r/r
GI - soft, NT, ND, +BS 
Ext - no cyanosis/edema 
Skin - warm and dry
Psych - calm, cooperative 
Neuro - moving all extremities, non focal, aaox3, speech clear 
and coherent 
 
Pertinent Results:
WBC 5.6, Hg 11.8, Hct 35.3, Plt 97
Eos 12.8%, abs eo 710 
Na 140, K 4.0, Cl 103, Co2 24, Bun 14, Cr 0.7, Glu 95

CD4 3
CD4% 1% 
HIV VL 5.1 

-___ Quant Gold: Indeterminate 
-___ Hep A/B/C serologies: HAV Ab+, hepB negative (non immune) 
,
Hep C neg
-___ HSV IgG: HSV1 positive, HSV 2 negative 
-___ VZV IgG: pending
-___ Toxo IgM/IgG: pending
-___ RPR w/ Prozone: negative 

Micro:
-___ Flu A&B PCR: negative
-___ BCx: negative
-___ Blood fungal/AFB Cx: NGTD
-___ UCx: BETA STREPTOCOCCUS GROUP B. 10,000-100,000 CFU/mL.  
-___ Crypto Ag: negative
-___ Sputum immunocfluorescent test for PJP: negative
-___ Stool Cx: neg/final 
-___ Stool C. diff: NEGATIVE
-___ AFB smear #1: none seen
-___ AFB Cx: PND
-___ AFB smear #2: none seen
-___ AFB Cx: PND
-___ AFB smear #3: none seen 
-___ AFB Cx: PND
-___ Varicella serology pending
-___ Toxoplasma serology pending 
-___ Stool O&P pending 

 
Brief Hospital Course:
Mr. ___ is a ___ y/o M w/ HIV diagnosed in ___ who has not 
been on ART for past ___ years who presents with severe 
intermittent dysphagia with reduced PO intake and corresponding 
progressive unintentional weight loss and generalized weakness. 
He was started on an empiric trial of fluconazole which worked 
well for his dysphagia and was seen by infectious disease for 
re-initiation of HAART therapy and prophylaxis. His workup 
revealed a CD4 count of 3. He had an EGD that showed some 
gastritis but no overt candidal esophagitis, but was continued 
on a course of fluconazole given his improvement. 

# Dysphagia/Odynophagia 
Severe dysphagia leading to decreased PO intake and weight loss. 
Thought to be from candidal esophagitis given his rapid 
improvement with fluconazole. He received 1 week of therapy 
before he had his EGD; EGD did not appear to be consistent with 
candidal infection but biopsies were taken. A PPI was started 
for a 6 week course for gastritis. EGD had findings that may 
have represented eosinophilic esophagitis, the patient is noted 
to have a peripheral eosinophilia, and will need his biopsies 
followed and a CBC as outpatient. He was discharged with a 
prescription to complete 1 additional week of fluconazole for 2 
weeks total. 

# Weight loss
EGD did not show mass or tumor. He did not have imaging in the 
hospital to further work up an etiology, and TSH was 4.4. He 
will need a colonoscopy given his family history of colon cancer 
as well as his slight anemia with microcytosis. Anemia could be 
related to HIV/AIDS, but should pursue further weight loss 
workup as outpatient. 

# HIV / AIDS
His Viral load is 5.1, CD4 count 3. Genotyping is pending. He 
will need hepatitis B vaccination as an outpatient. He was 
started on tivicay and descovy, with prophylactic azithromycin 
weekly and Bactrim DS daily. He tolerated this regimen well. In 
the hospital he had a quantiferon which was indeterminate, and 3 
acid fast sputum tests which were negative. He was initially on 
airborne precautions but these were discontinued when the ___ 
AFB returned negative. Much of his testing including final AFB 
cultures and HIV genotyping is pending at the time of discharge. 
He is set up for follow up with the ID team in 2 weeks. 

# Fatigue, aches
# Severe Malnutrition 
Attributed to AIDS with progressive malnutrition. He was seen by 
nutrition who encouraged PO intake and helped with 
recommendations for weight gaining supplements. 

# Pancytopenia
Likely related to his HIV/AIDS. Anemia as above, with iron 
deficiency, he will need outpatient colonoscopy, he had one a 
few years ago but not clear if microcytosis was present at that 
time. Will need a CBC with differential within the next few 
weeks to monitor his eosinophil count as well. 

# Disposition
Discharged home with HAART+prophylactic abx, fluconazole x 1 
week and omeprazole x 6 weeks. Set up for ___ clinic. Will need 
to establish care with a PCP. As he does not have one, a 
notification upon discharge was not sent. 

Time spent: 50 minutes 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Azithromycin 1200 mg PO 1X/WEEK (FR) 
RX *azithromycin 600 mg 2 tablet(s) by mouth weekly Disp #*8 
Tablet Refills:*0 
2.  Dolutegravir 50 mg PO DAILY 
RX *dolutegravir [Tivicay] 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
RX *emtricitabine-tenofovir alafen [Descovy] 200 mg-25 mg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 
4.  Fluconazole 200 mg PO Q24H Duration: 7 Days 
RX *fluconazole 200 mg 1 tablet(s) by mouth daily Disp #*7 
Tablet Refills:*0 
5.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*42 
Capsule Refills:*0 
6.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Esophagitis
Gastritis  
HIV
Eosinophilia 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital with difficulty swallowing and 
this is attributed to a fungal infection in your esophagus 
causing trouble swallowing. You improved with a medication 
called Fluconazole. You had an upper endoscopy that showed some 
inflammation and gastritis, but did not clearly show fungal 
infection. It is possible that you did have an infection that 
cleared up, or that you have something else, so biopsies were 
taken of your esophagus and the gastroenterology team will call 
you with results. In the meantime you will be started on a 
medication to suppress acid for a few weeks. 

You will be started on 2 new drugs for HIV and 2 prophylactic 
antibiotics to protect you from infections that can occur with 
HIV. 

Your preliminary testing for TB is negative but your final 
testing will be pending for several weeks. Please discuss your 
test results when you follow up with the Infectious Disease 
clinic. 

You will need a colonoscopy and further weight loss workup as an 
outpatient. Once you establish care with a PCP you may ask if 
you require any imaging (such as a CT scan) to look for other 
causes of weight loss. Please make sure to have a set of labwork 
including a CBC with differential to evaluate your blood counts, 
one of which was slightly abnormal while you were in the 
hospital. 

We wish you the best going forward. 

Sincerely, 
Your care team at ___
 
Followup Instructions:
___